US07241791B2
Step 2: 4-[2-allyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenol
Prepared according to Method D step C from 2-allyl-3-(4-methoxyphenyl)-7-trifluoromethyl-2H-indazole (0.007 g, 0.02 mmol), boron tribromide (0.10 mL, 1.05 mmol) and 0.3 mL of cyclohexene to give the product (0.007 g).

reactant | 2-allyl-3-(4-methoxyphenyl)-7-trifluoromethyl-2H-indazole | 0.02 mmol, 0.007 g | C(C=C)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)OC)C(F)(F)F | C18H15F3N2O
reactant | boron tribromide | 1.05 mmol, 0.10 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.3 mL | C1=CCCCC1 | C6H10
product | 4-[2-allyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenol | 0.007 g | C(C=C)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)O)C(F)(F)F | C17H13F3N2O
